US04500520
4,5-bis(4-Fluorophenyl)-2-trimethylsilylfuran
A solution of 2,3-bis(4-fluorophenyl)furan (7.0 g, 27 mmoles) in 100 ml of dry dimethoxyethane was cooled to -35° and treated dropwise with n-butyl lithium (1.6M; 18.8 ml, 30 mmoles). The solution was stirred at -35° for one hour and treated with chlorotrimethylsilane (3.0 g, 27.6 mmoles). The reaction mixture was stirred at -35° for one hour and at room temperature for 24 hours. The mixture was concentrated in vacuo, suspended in 180 ml of carbon tetrachloride, and filtered through 50 g of silica gel. The filtrate was concentrated to an oil which crystallized on standing to yield 8.1 g (90%) of the title compound, m.p. 82°-83°. PMR (CDCl3) δ0.33 (s, 9H, Si(CH3)3); 6.87 (s, 1H, H--C=C--O), 6.9-7.8 (m, 8H, 2-p-FC6H4). MS: m/z 328.

reactant | 2,3-bis(4-fluorophenyl)furan | 27 mmoles, 7.0 g | FC1=CC=C(C=C1)C=1OC=CC1C1=CC=C(C=C1)F | C16H10F2O
reactant | n-butyl lithium | 30 mmoles, 1.6M, 18.8 ml | C(CCC)[Li]
reactant | chlorotrimethylsilane | 27.6 mmoles, 3.0 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | 4,5-bis(4-Fluorophenyl)-2-trimethylsilylfuran | 8.1 g, 90% | FC1=CC=C(C=C1)C=1C=C(OC1C1=CC=C(C=C1)F)[Si](C)(C)C | C19H18F2OSi
